US06451835B1
To 2.0 grams of 4-phenyl-1H-pyrazole, 10 mL of dimethyl sulfoxide and 1.5 g of potassium carbonate were added and the solution was stirred at room temperature. Then, 1.5 grams of 1-bromo-2-fluoroethane was added dropwise. After addition of the bromofluoroethane, the mixture was stirred at room temperature for 24 hours, then poured into 100 mL of water. The precipitated product was filtered off, washed with water, and air-dried. There was obtained 2.0 grams of 4-(2-fluoroethyl)-4-phenyl-1H-pyrazole. The compounds summarized in Table 1 were prepared using essentially the same procedure as shown above. Each of the compounds so formed is characterized by its NMR characteristics.

reactant | 4-phenyl-1H-pyrazole | 2.0 grams | C1(=CC=CC=C1)C=1C=NNC1 | C9H8N2
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 1.5 grams | BrCCF | C2H4BrF
reactant | bromofluoroethane | BrC(C)F | C2H4BrF
solvent | water | 100 mL | O | H2O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 4-(2-fluoroethyl)-4-phenyl-1H-pyrazole | 2.0 grams | FCCC1(C=NNC1)C1=CC=CC=C1 | C11H13FN2
